US05254689
To a stirred mixture of N-acetyl-4-hydroxypiperidine (7.1 g, 0.050 mol), 4-nitrophenol (7.1 g, 0.050 mol), PPh3 (16.3 g, 0.062 mol), and THF (50 mL) was added a solution of diethyl azodicarboxylate (10.8 g, 0.062 mol) in THF (16 mL). The mixture was stirred at room temperature for 48 hours, and then concentrated. The crude mixture was purified by flash chromatography (1% MeOH/EtOAc) to give 4.5 g (30%) of N-acetyl-4-(4-nitrophenoxy)piperidine as a yellow oil: 1H NMR (DMSO-d6): δ 8.10 (d, 2H) 7.05 (d, 2H), 4.80 (m, 1H) 3.80 (m, 1H), 3.65 (m, 1H), 3.15 (m, 1H), 3.00 (m, 1H), 2.00 (s, 3H), 1.90 (m, 2H), 1.65 (m, 1H), 1.50 (m, 1H).

reactant | N-acetyl-4-hydroxypiperidine | 0.050 mol, 7.1 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | 4-nitrophenol | 0.050 mol, 7.1 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | PPh3 | 0.062 mol, 16.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 0.062 mol, 10.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-acetyl-4-(4-nitrophenoxy)piperidine | 4.5 g, 30% | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O4
